* C:\Users\nx018023\OneDrive - Nexperia\Documents\GitHub\test_with_pyspice_ngspice\circuit_with_dc_sweep.asc
V1 1 0 10
R1 2 0 1K
D1 1 2 MyDiode
.model D D
.lib C:\Users\nx018023\OneDrive - Nexperia\Documents\LTspiceXVII\lib\cmp\standard.dio
.model MyDiode D(Is=4.352n Rs=0.6458 BV=110 IBV=0.0001 N=1.906)
.dc V1 0 5 0.1
.backanno
.end
