* C:\Users\nx018023\OneDrive - Nexperia\Documents\GitHub\test_with_pyspice_ngspice\circuit_including_models_and_libraries\circuit_including_models_and_libraries.asc
V1 N001 0 1
R1 N002 0 1K
XU1 N001 N002 1N4148
.DC V1 -4 4 0.01
*
*******************************************
*
*1N4148
*
*NXP Semiconductors
*
*High-speed diodes
*
*
*
*
*
*
*
*
*
*
*
*VRRM = 100V
*IFRM = 450 mA
*trr  = 4ns
*
*
*Package pinning does not match Spice model pinning.
*Package: SOD 27
*
*Package Pin 1 : Cathode
*Package Pin 2 : Anode
*
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.SUBCKT 1N4148 1 2
*
* The resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
R1 1 2 5.827E+9
D1 1 2 1N4148
*
.MODEL 1N4148 D
+ IS = 4.352E-9
+ N = 1.906
+ BV = 110
+ IBV = 0.0001
+ RS = 0.6458
+ CJO = 7.048E-13
+ VJ = 0.869
+ M = 0.03
+ FC = 0.5
+ TT = 3.48E-9
.ENDS
*
.lib 1N4148.lib
.backanno
.end
