 *---------- DMG3420U Spice Model ----------
.SUBCKT DMG3420U 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.01432 
RS 30 3 0.001 
RG 20 2 18 
CGS 2 3 7.702E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 1.1E-009 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 1E+006  ETA = 5.027E-008  VTO = 0.8394 
+ TOX = 6E-008  NSUB = 1E+016  KP = 49.29  KAPPA = 1E-015  U0 = 400 
.MODEL DCGD D  CJO = 4.457E-010  VJ = 0.2472  M = 0.4558 
.MODEL DSUB D  IS = 4.271E-010  N = 1.076  RS = 0.05217  BV = 22  CJO = 3.405E-011  VJ = 0.2561  M = 0.4362 
.MODEL DLIM D  IS = 0.0001 
.ENDS
