* C:\Users\nx018023\OneDrive - Nexperia\Documents\GitHub\test_with_pyspice_ngspice\simple_voltage_divider.asc
V1 in 0 10
R2 out 0 1K
R1 out in 9K
.op
.backanno
.end
